US20010007031A1
5-(3,4-Dichlorophenoxy)-6-methoxy-4-methyl-8-nitroquinoline
A mixture of 83 g of 2-nitro-4-methoxy-5-(3,4-dichlorophenoxy)aniline hydrochloride (0.22 mole) polyphosphoric acid in 250 ml of 85% phosphoric acid was heated in a nitrogen atmosphere at 110-120° C. and 32.17 g of methyl vinyl ketone (0.46 mole) was added dropwise under vigorous stirring. After the addition was complete, the mixture was stirred and maintained at 110-120° C. for a further 4 hours. An additional 14 g of methyl vinyl ketone (0.2 mole) was added and the mixture was heated for a further 4 hours. The reaction mixture was poured into ice cold sodium hydroxide solution (pH 10-12) and left over night. The resulting precipitate was separated by filtration and dried. The solid was dissolved in chloroform and mixed with activated charcoal and filtered through a celite bed. The celite bed was washed with chloroform and the filtrate was concentrated to 400 ml under vacuum and diluted with methanol until a turbidity appeared and left overnight. The crystalline product formed was separated by decantation and crystallized from chloroform to give 8 g of pure product, 5-(3,4-dichlorophenoxy)-6-methoxy-4-methyl-8-nitroquinoline. The combined filtrates were evaporated to dryness and the residue was chromatographed over silica gel with 30% chloroform in hexane to yield a fraction from which the product which was crystallized (chloroform/methanol) to give 13 g of product.

reactant | 2-nitro-4-methoxy-5-(3,4-dichlorophenoxy)aniline hydrochloride | 0.22 mole, 83 g | Cl.[N+](=O)([O-])C1=C(N)C=C(C(=C1)OC)OC1=CC(=C(C=C1)Cl)Cl
reactant | methyl vinyl ketone | 0.46 mole, 32.17 g | C(=C)C(=O)C | C4H6O
reactant | methyl vinyl ketone | 0.2 mole, 14 g | C(=C)C(=O)C | C4H6O
solvent | phosphoric acid | 250 ml | P(O)(O)(O)=O | H3O4P
product | 5-(3,4-Dichlorophenoxy)-6-methoxy-4-methyl-8-nitroquinoline | 8 g | ClC=1C=C(OC2=C3C(=CC=NC3=C(C=C2OC)[N+](=O)[O-])C)C=CC1Cl | C17H12Cl2N2O4
